US06465507B2
1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU, 8.39 mL, 56.1 mmol) was added to a stirred mixture of tosylmethyl isocyanide (10.95 g, 56.1 mmol) in tetrahydrofuran (THF, 56 mL) at 0° C. After 15 minutes, to the mixture was added 5,6-dihydro-2H-pyran-2-one (5 g, 51 mmol). The mixture was then stirred at room temperature for 2 hours. The reaction was quenched with brine and extracted with THF several times. The combined extracts were dried (sodium sulfate), filter and concentrated to give 6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one.

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 56.1 mmol, 8.39 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | tosylmethyl isocyanide | 56.1 mmol, 10.95 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | 5,6-dihydro-2H-pyran-2-one | 51 mmol, 5 g | O1C(C=CCC1)=O | C5H6O2
solvent | tetrahydrofuran | 56 mL | O1CCCC1 | C4H8O
product | 6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one | C1=C2C(=CN1)C(OCC2)=O | C7H7NO2
